US09102617B2
5-(4-(trifluoromethyl)phenyl)naphthalen-2-ol (115 mg, 0.398 mM) was dissolved with triethylamine (0.11 mL, 0.80 mM) in 8 mL of anhydrous dichloromethane. Mixture was then cooled to −78° C. Triflic anhydride (0.11 mL, 0.63 mM) was then added drop wise to the mixture. After stirring for one hour, mixture was then diluted with 50 mL of dichloromethane and first washed with NaHCO3 then organic layer was washed brine. The organic layer was dried using Na2SO4 and then was concentrated in vacuo. Flash chromatography (5% EtOAc/hexanes) was used to afford pure 5-(4-(trifluoromethyl)phenyl)naphthalen-2-yl trifluoromethanesulfonate (98 mg, 59% yield) as a white solid. 1H NMR (400 MHz, CDCl3) d=7.24 (dd, J=2.56 Hz, J=9.28 Hz, 1H), 7.40 (d, J=7 Hz, 1H), 7.49 (d, J=8.32, 2H), 7.54 (t, J=7.36 Hz, 1H), 7.68 (d, J=8.24 Hz, 2H), 7.74 (d, J=2.56 Hz, 1H), 7.81 (m, 2H)

reactant | 5-(4-(trifluoromethyl)phenyl)naphthalen-2-ol | 0.398 mM, 115 mg | FC(C1=CC=C(C=C1)C1=C2C=CC(=CC2=CC=C1)O)(F)F | C17H11F3O
reactant | triethylamine | 0.80 mM, 0.11 mL | C(C)N(CC)CC | C6H15N
reactant | Triflic anhydride | 0.63 mM, 0.11 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 5-(4-(trifluoromethyl)phenyl)naphthalen-2-yl trifluoromethanesulfonate | 98 mg, 59% yield | FC(S(=O)(=O)OC1=CC2=CC=CC(=C2C=C1)C1=CC=C(C=C1)C(F)(F)F)(F)F | C18H10F6O3S
